US07365193B2
6-Bromo-9-oxa-1-azaanthracen-10-one
Sodium metal (2.30 g, 100 mmol) was added to ice-cooled methanol (75 mL) with stirring under nitrogen. After the sodium had reacted completely, a slurry of 4-bromophenol (8.65 g, 50 mmol) and 2-chloronicotinic acid (7.88 g, 50 mmol) in methanol (50 mL) was added. The resulting light yellow solution was concentrated under vacuum, and the solid residue was taken up in DMF (50 mL) and heated to 130° C. for 18 h. The mixture was cooled, concentrated under vacuum, and the residue was diluted with water (50 mL) and extracted with ether (2×50 mL). The aqueous phase was acidified with 5% sulfuric acid (60 mL) to pH ˜3, and the slurry was stirred for 1 h and the precipitate was isolated by filtration and dried at 50° C. The tan solid (3.48 g), a 3:2 mixture of 2-(4-bromophenoxy)nicotinic acid and 2-chloronicotinic acid, was used directly for the cyclization. The solid (1.0 g) was added in one portion to a solution of phosphorous pentoxide (2.6 g) in methanesulfonic acid (27 g) at 80° C. The brownish solution was heated at 80° C. for 15 h, then cooled and poured onto ice (100 g). The mixture was brought to pH>9 by addition of 50% NaOH (17 mL) and extracted with dichloromethane (2×40 mL). The organic extract was dried (MgSO4) and concentrated to provide the title compound as a white solid (0.32 g, 8% from 4-bromophenol). 1H NMR (300 MHz, CD3OD) δ ppm 7.59 (dd, J=8, 5 Hz, 1H), 7.64 (d, J=8 Hz, 1H), 8.00 (dd, J=9, 3 Hz, 1H), 8.36 (d, J=2 Hz, 1H), 8.73 (dd, J=8, 2 Hz, 1H), 8.78 ppm (dd, J=5, 2 Hz, 1H); MS (DCl/NH3) m/z 276/278 (M+H)+.

reactant | Sodium | 100 mmol, 2.30 g | [Na] | Na
reactant | 4-bromophenol | 50 mmol, 8.65 g | BrC1=CC=C(C=C1)O | C6H5BrO
reactant | 2-chloronicotinic acid | 50 mmol, 7.88 g | ClC1=C(C(=O)O)C=CC=N1 | C6H4ClNO2
solvent | methanol | 50 mL | CO | CH4O
solvent | methanol | 75 mL | CO | CH4O
product | 6-Bromo-9-oxa-1-azaanthracen-10-one | 0.32 g, 8% | BrC=1C=C2C(C=3C=CC=NC3OC2=CC1)=O | C12H6BrNO2
